US07585872B2
J7. (±)-trans-1,2-Dimethoxy-4-(2-nitrocyclohex-4-enyl)benzene
207.0 g of 3,4-dimethoxybenzaldehyde, 100.0 g of ammonium acetate and 125 ml of nitromethane are heated to boiling for 3-4 h in 1.0 l of glacial acetic acid. After cooling in an ice bath, the precipitate is filtered off with suction, rinsed with glacial acetic acid and petroleum ether and dried. M.p.: 140-141° C.

reactant | 3,4-dimethoxybenzaldehyde | 207.0 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | ammonium acetate | 100.0 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 125 ml | [N+](=O)([O-])C | CH3NO2
reactant | acetic acid | 1.0 l | C(C)(=O)O | C2H4O2
product | (±)-trans-1,2-Dimethoxy-4-(2-nitrocyclohex-4-enyl)benzene | COC1=C(C=C(C=C1)[C@H]1[C@@H](CC=CC1)[N+](=O)[O-])OC | C14H17NO4
